US07144913B2
Step 1: Methyl 4-bromo-3-[(4-chlorophenyl)sulfanyl]-6-fluoro-1H-indole-2-carboxylate
To a solution of bis(4-chlorophenyl) disulfide (4 g, 14 mmol) in DCE at 0° C. (30 mL) was slowly added sulfuryl chloride (1.8 g, 14 mmol). After 1 hour of stirring the mixture was added to a solution of methyl 4-bromo-6-fluoroindole-2-carboxylate (2.5 g, 9 mmol) in DMF (30 mL) at r.t. The reaction mixture was stirred for 2 hours and saturated aqueous NaHCO3 was added. The phases were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The residue was swished in EtOAc to give 1.5 g of desired compound as a white solid.

reactant | bis(4-chlorophenyl) disulfide | 14 mmol, 4 g | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
reactant | sulfuryl chloride | 14 mmol, 1.8 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methyl 4-bromo-6-fluoroindole-2-carboxylate | 9 mmol, 2.5 g | BrC1=C2C=C(NC2=CC(=C1)F)C(=O)OC | C10H7BrFNO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | ClCCCl | C2H4Cl2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | Methyl 4-bromo-3-[(4-chlorophenyl)sulfanyl]-6-fluoro-1H-indole-2-carboxylate | 1.5 g | BrC1=C2C(=C(NC2=CC(=C1)F)C(=O)OC)SC1=CC=C(C=C1)Cl | C16H10BrClFNO2S
